US06265426B1
4-Difluoromethoxy-3-fluoro-benzoic acid methyl ester
A solution of 3-fluoro-4-hydroxy-benzoic acid methyl ester (2 g, 11.75 mmol), chlorodifluoromethane (10.6 g, 122.6 mmol, 10.4 eq.) and K2CO3 (1.94 g, 14.1 mmol) was heated in an autoclave for 6 hrs. at 160° C. After cooling the mixture was treated with excess Na2CO3 and extracted with EtOAc. The organic phase was washed twice with satd. NaCl then dried and evaporated to afford the title compound (2.14 g, 83% yield) as an orange oil. MS: m/e=220 (M+).

reactant | 3-fluoro-4-hydroxy-benzoic acid methyl ester | 11.75 mmol, 2 g | COC(C1=CC(=C(C=C1)O)F)=O | C8H7FO3
reactant | chlorodifluoromethane | 122.6 mmol, 10.6 g, 10.4 eq. | ClC(F)F | CHClF2
reactant | K2CO3 | 14.1 mmol, 1.94 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-Difluoromethoxy-3-fluoro-benzoic acid methyl ester | 2.14 g, 83% yield | COC(C1=CC(=C(C=C1)OC(F)F)F)=O | C9H7F3O3
